US09192599B2
Preparation of a Bioadhesive Tablet Containing 0.1 mg Clonidine
Basically 0.1 mg (base equivalent) of clonidine hydrochloride was blended with 13 mg of calcium phosphate dibasic, with 15 mg of microcrystalline cellulose, with 40 mg of hydroxypropyl methyl cellulose, 1 mg of colloidal silica and 0.9 mg of magnesium stearate.

reactant | clonidine hydrochloride | 0.1 mg | C1=CC(=C(C(=C1)Cl)NC2=NCCN2)Cl.Cl
reactant | calcium phosphate dibasic | 13 mg | OP(=O)([O-])[O-].[Ca+2]
reactant | magnesium stearate | 0.9 mg | C(CCCCCCCCCCCCCCCCC)(=O)[O-].[Mg+2].C(CCCCCCCCCCCCCCCCC)(=O)[O-]
product | Clonidine | C1=CC(=C(C(=C1)Cl)NC2=NCCN2)Cl | C9H9Cl2N3
